US04886817
To a solution of 7.5 g of (E)-8-phenyl-7-octen-1-ol dissolved in 60 ml of pyridine, 9.1 g of p-toluenesulfonyl chloride was added at 0° C. After stirring at 10° C. for 5 hours, 10 ml of water was added and the mixture was stirred for 30 minutes, followed by addition of 200 ml of ether. The mixture was washed with 10% aqueous hydrochloric acid, water and saturated saline water. The organic layer was dried, and the solvent was removed under reduced pressure. The pale yellow oily product obtained was purified by silica gel column chromatography (solvent: hexane-ethyl acetate=5:1) to give 12 g of (E)-1-phenyl-8-p-toluenesulfonyloxy-2-octene as an oily product.

reactant | (E)-8-phenyl-7-octen-1-ol | 7.5 g | C1(=CC=CC=C1)/C=C/CCCCCCO | C14H20O
reactant | p-toluenesulfonyl chloride | 9.1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | 10 ml | O | H2O
reactant | ether | 200 ml | CCOCC | C4H10O
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | (E)-1-phenyl-8-p-toluenesulfonyloxy-2-octene | 12 g | C1(=CC=CC=C1)C\C=C\CCCCCOS(=O)(=O)C1=CC=C(C=C1)C | C21H26O3S
